US20010047031A1
(RS)-4-[1-(Toluene-4-sulfonyl)-pyrrolidin-3-ylsulfanyl]-phenol (1.9 g, 5.44 mmol) in phenol (5.1 g, 54.4 mmol) was treated with HBr (25 ml, 48%). After 4 hours stirring at 100° C., the reaction mixture was cooled to room temperature and quenched with H2O and CH2Cl2. The aqueous phase was washed with CH2Cl2 and concentrated to provide (RS)-4-(pyrrolidin-3-ylsulfanyl)-phenol hydrobromide (1.13 g, 75%) as a brown oil, MS: m/e=196.2 (M+H+). Following the general method of example 74, the compounds of example 75 to example 77 were prepared.

reactant | (RS)-4-[1-(Toluene-4-sulfonyl)-pyrrolidin-3-ylsulfanyl]-phenol | 5.44 mmol, 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC(CC1)SC1=CC=C(C=C1)O)C | C17H19NO3S2
reactant | phenol | 54.4 mmol, 5.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | HBr | 25 ml | Br | BrH
product | (RS)-4-(pyrrolidin-3-ylsulfanyl)-phenol hydrobromide | 1.13 g, 75% | Br.N1CC(CC1)SC1=CC=C(C=C1)O | InChI=1S/C10H13NOS.BrH/c12-8-1-3-9(4-2-8)13-10-5-6-11-7-10;/h1-4,10-12H,5-7H2;1H
